US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-8-methoxyquinazolin-4(3H)-one
To a solution of 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-8-methoxy-3H-quinazolin-4-one (537 mg, 1.33 mmol) in DMF (10 mL) was added a pyrrolidine (758 mg, 10.66 mmol). The reaction mixture was stirred at room temperature for 16 hours. Water (100 mL) was added and the solid separated was filtered and dried under vacuum. The solid was triturated with ether and dried to give the title compound as a white solid. Yield: 232 mg (44%). MP 231-232° C. 1H NMR (400 MHz, CDCl3): δ 10.30 (s, 1H), 7.90 (dd, J=8.0 Hz, 1H), 7.806 (br s, 2H), 7.42 (t, J=8.4 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H), 4.04 (s, 3H), 3.95 (t, J=6.4 Hz, 2H), 2.93 (t, J=6.0 Hz, 2H), 2.65 (m, 4H), 2.40 (s, 6H), 1.84 (m, 4H). MS (ES) m/z: 394.15 (M+1).

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-8-methoxy-3H-quinazolin-4-one | 1.33 mmol, 537 mg | BrCCOC1=C(C=C(C=C1C)C1=NC2=C(C=CC=C2C(N1)=O)OC)C | C19H19BrN2O3
reactant | pyrrolidine | 10.66 mmol, 758 mg | N1CCCC1 | C4H9N
reactant | Water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-8-methoxyquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C1=NC2=C(C=CC=C2C(N1)=O)OC | C23H27N3O3
